US06617325B1
d. 4′-trifluoromethyl-biphenyl-2-carboxylic acid-(1-benzyl-piperidin-4-yl)-amide
34.1 g (0.12 mol) of 4′-trifluoromethyl-biphenyl-2-carboxylic acid chloride, dissolved in 300 ml of dichloromethane, are added dropwise at 15 to 20° C. to a solution of 22.43 ml (0.11 mol) of 4-amino-1-benzyl-piperidine and 42.97 ml (0.31 mol) of triethylamine in 600 ml of dichloromethane. The mixture is stirred for 14 hours at ambient temperature. The reaction solution is diluted with 300 ml of dichloromethane and extracted with a mixture of 1N sodium hydrogen carbonate solution and 1N sodium hydroxide solution. The organic phase is dried over sodium sulphate and the solvent is eliminated. The residue is recrystallised from 650 ml ethanol.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid chloride | 0.12 mol, 34.1 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
reactant | 4-amino-1-benzyl-piperidine | 0.11 mol, 22.43 ml | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 0.31 mol, 42.97 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4′-trifluoromethyl-biphenyl-2-carboxylic acid-(1-benzyl-piperidin-4-yl)-amide | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H25F3N2O
